US04544670
The Preparation of 1-(4-Methoxyphenylacetyl)-3-Isopropylguanidine Hydrochloride
A mixture containing methylguanidine sulfate (16.52 g), 8.8 g of aqueous sodium hydroxide (50% solution), and 100 ml of acetone, is stirred for 21/2 hrs at RT. Anhydrous sodium sulfate (6.0 g) is added, and stirring continued for 1 hr. A solution of 4-methoxyphenylacetylchloride (9.23 g) in 50 ml of acetone is added dropwise and the reaction mixture stirred overnight at RT. The reaction mixture is filtered and the filtrate diluted with 100 ml of saturated aqueous sodium bicarbonate. The acetone is evaporated in vacuo, and the aqueous residue diluted with 100 ml H2O and extracted with two 100 ml portions of methylene chloride. The combined organic extracts are dried with sodium sulfate, filtered and concentrated in vacuo. The concentrate is acidified with ethereal hydrochloric acid and the solvent evaporated in vacuo. The residue is stirred in 200 ml of diethyl ether. The resultant solid is collected, washed with diethyl ether, dried in air and recrystallized, affording 5.43 g of a white solid, M.P. 125°-128° C.

reactant | methylguanidine sulfate | 16.52 g | S(=O)(=O)(O)O.CNC(=N)N
reactant | sodium hydroxide | 8.8 g | [OH-].[Na+]
reactant | sodium sulfate | 6.0 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-methoxyphenylacetylchloride | 9.23 g | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-(4-Methoxyphenylacetyl)-3-Isopropylguanidine Hydrochloride | 5.43 g | Cl.COC1=CC=C(C=C1)CC(=O)NC(=N)NC(C)C | InChI=1S/C13H19N3O2.ClH/c1-9(2)15-13(14)16-12(17)8-10-4-6-11(18-3)7-5-10;/h4-7,9H,8H2,1-3H3,(H3,14,15,16,17);1H
